US08623844B2
6.0 gm of fosaprepitant dimeglumine salt, prepared as in Part B, 120 ml of water and 120 ml of methanol were charged in a clean and dry round bottom flask followed by cooling to about 0° C. The pH of the reaction mixture was adjusted to about 1 by the addition of 1N hydrochloric acid solution at about 0° C.-5° C. The resultant reaction mixture was stirred for about 5 minutes. The separated solid was filtered and the solid was washed with copious amount of water to neutral pH. Finally, the solid was washed with 12 ml of methanol followed by drying the solid obtained at about 35° C.-40° C. under vacuum to afford 2.9 gm of fosaprepitant, neutral form, having the XRPD pattern, which is substantially in accordance with FIG. 3; and a DSC thermogram, which is substantially in accordance with FIG. 4.

reactant | fosaprepitant dimeglumine | 6.0 gm | C[C@H](C=1C=C(C=C(C1)C(F)(F)F)C(F)(F)F)O[C@@H]2[C@@H](N(CCO2)CC3=NN(C(=O)N3)P(=O)(O)O)C=4C=CC(=CC4)F.CNC[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O.CNC[C@@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O
reactant | water | 120 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | fosaprepitant | 2.9 gm | C[C@H](C=1C=C(C=C(C1)C(F)(F)F)C(F)(F)F)O[C@@H]2[C@@H](N(CCO2)CC=3N=C(N(N3)P(=O)(O)O)O)C=4C=CC(=CC4)F | C23H22F7N4O6P
